US04656214
Preparation of Ethylene Glycol Mononeoheptanoate
To a 1 liter glass flask is added one mole of neoheptanoic acid and 1 gm of potassium hydroxide (solid), to provide the base catalyst for the subsequent ethoxylation reaction. Gaseous nitrogen is introduced to purge oxygen from the flask. A conventional bubbler device provided with NUJOL® oil is provided in the nitrogen gas feed line to the reaction flask. Gases discharged from the reaction flask are passed through a second such bubbler device. With continuous nitrogen flow through the flask, the temperature of the neo-acid/base mixture is raised to 150° C. at a rate of about 10° C./min. by means of a heating mantle. Thereafter, gaseous nitrogen flow is stopped and is replaced with gaseous ethylene oxide which is permitted to bubble through the neo-acid mixture. Periodic withdrawal of samples of the reaction mixture are made which are titrated to determine the level of residual neo-acid. The addition of ethylene oxide is controlled such that substantially all of the ethylene oxide introduced is reacted, thereby avoiding gaseous throughput through the gas withdrawal line of the reaction vessel. The adsorption of the ethylene oxide is also controlled such that there is no substantial rise in temperature of the reaction vessel due to any reaction exotherm. When it is determined that the proper amount of ethylene oxide has been added (via titration, as described above), the flow of ethylene oxide is terminated, and the reaction vessel is again purged with gaseous nitrogen and allowed to cool to room temperature. (An excess of ethylene oxide should be avoided). The crude product is then washed with water until the washwater is determined to be neutral. The monoethyoxylate thereby obtained is distilled at a pressure of 100 mmHg.

reactant | neoheptanoic acid | one mole | C(CCC(C)(C)C)(=O)O | C7H14O2
reactant | potassium hydroxide | 1 gm | [OH-].[K+]
reactant | ethylene oxide | C1CO1 | C2H4O
product | Ethylene Glycol Mononeoheptanoate | C(CCC(C)(C)C)(=O)OCCO | C9H18O3
